US07179823B1
Sodium hydride (60%, oily, 0.20 g) was added to a mixture of ethyl diethylphosphonoacetate (0.992 ml) and tetrahydrofuran (20 ml) at 0° C., and the mixture was stirred at room temperature for 30 minutes. A solution of 1-(6-benzyloxy-2-naphthylmethyl)-4-phenylpyrrole-3-carbaldehyde (2.09 g) in tetrahydrofuran (20 ml) was slowly added to the mixture, which was stirred at room temperature for 1 hour. The reaction mixture was poured into water, which was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated aqueous sodium chloride solution, dried (MgSO4), then concentrated. The colorless crystals obtained were collected by filtration to yield ethyl(E)-3-[1-(6-benzyloxy-2-naphthylmethyl)-4-phenyl-3-pyrrolyl]propenoate (1.65 g, yield: 68%). This was recrystallized from ethyl acetate-hexane. Melting point: 119–120° C.

reactant | Sodium hydride | 0.20 g | [H-].[Na+]
reactant | ethyl diethylphosphonoacetate | 0.992 ml | C(C)OP(=O)(OCC)CC(=O)OCC | C8H17O5P
reactant | 1-(6-benzyloxy-2-naphthylmethyl)-4-phenylpyrrole-3-carbaldehyde | 2.09 g | C(C1=CC=CC=C1)OC=1C=C2C=CC(=CC2=CC1)CN1C=C(C(=C1)C1=CC=CC=C1)C=O | C29H23NO2
reactant | water | O | H2O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | ethyl(E)-3-[1-(6-benzyloxy-2-naphthylmethyl)-4-phenyl-3-pyrrolyl]propenoate | 1.65 g, yield: 68% | C(C1=CC=CC=C1)OC=1C=C2C=CC(=CC2=CC1)CN1C=C(C(=C1)C1=CC=CC=C1)/C=C/C(=O)OCC | C33H29NO3
